US04497647
A mixture of 18.2 g (0.155 mole) of 1-chloromethyl-1H-1,2,4-triazole, 27.2 g (0.17 mole) of sodium diethyl phosphite and 200 ml of acetonitrile is heated for 2 hours to 60° C. and then refluxed for 16 hours. The precipitate is removed and the solution is concentrated. Fractional distillation of the residue yields 19.1 g (56.5%) of diethyl (1H-1,2,4-triazol-1-yl)methylphosphonate in the form of a colourless oil with a boiling point of 120°-129° C./0.053 mb.

reactant | 1-chloromethyl-1H-1,2,4-triazole | 0.155 mole, 18.2 g | ClCN1N=CN=C1 | C3H4ClN3
reactant | sodium diethyl phosphite | 0.17 mole, 27.2 g | P(OCC)(OCC)[O-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | diethyl (1H-1,2,4-triazol-1-yl)methylphosphonate | 19.1 g, 56.5% | N1(N=CN=C1)CP(OCC)(OCC)=O | C7H14N3O3P
